US05972975
Following the general method of K. Wachi and A. Terada (Chem. Pharm. Bull., 1980, 28, 465-472), a mixture 81 mg (0.29 mmoles) of 3-(5-ethyl-2-pyridinyl)-2,2-dimethyl-2.3-dihydro-(4H)-1,3-benzoxazin-4-one and 2.0 mL of concentrated hydrochloric acid was heated to reflux for 8 h. The reaction was cooled to room temperature and the solvent was evaporated. The residue was dissolved in 4 mL ethyl acetate and washed with 3×1 mL of a 1:1 mixture of 10% of aqueous sodium hydroxide solution and saturated aqueous sodium chloride. The organic solution was dried (sodium sulfate), decanted, and evaporated to give 26 mg (84% yield) of 2-amino-5-ethylpyridine as an amber oil.

reactant | 3-(5-ethyl-2-pyridinyl)-2,2-dimethyl-2.3-dihydro-(4H)-1,3-benzoxazin-4-one | 0.29 mmoles, 81 mg | C(C)C=1C=CC(=NC1)N1C(OC2=C(C1=O)C=CC=C2)(C)C | C17H18N2O2
reactant | hydrochloric acid | 2.0 mL | Cl | ClH
product | 2-amino-5-ethylpyridine | 26 mg, 84% yield | NC1=NC=C(C=C1)CC | C7H10N2
